US06740662B1
Under ice cooling, 630 mg of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride, 154 mg of dimethylamine hydrochloride and 0.53 ml of triethylamine were added successively to a 10 ml DMF solution containing 700 mg of 3-[4-(3-chlorophenyl)-1-ethyl-7-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]propanoic acid. The reaction mixture was warmed to room temperature and stirred for 2 hours. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with saturated brine and then the solvent was evaporated. The residue was purified by a silica gel column chromatography (chloroform-ethyl acetate) and then recrystallized from diisopropyl ether to obtain 262 mg of 3-[4-(3-chlorophenyl)-1-ethyl-7-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]-N,N-dimethylpropanamide as colorless crystals.

reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 630 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | dimethylamine hydrochloride | 154 mg | Cl.CNC
reactant | triethylamine | 0.53 ml | C(C)N(CC)CC | C6H15N
reactant | 3-[4-(3-chlorophenyl)-1-ethyl-7-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]propanoic acid | 700 mg | ClC=1C=C(C=CC1)C1=C(C(N(C2=NC(=CC=C12)C)CC)=O)CCC(=O)O | C20H19ClN2O3
solvent | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-[4-(3-chlorophenyl)-1-ethyl-7-methyl-2-oxo-1,2-dihydro-1,8-naphthyridin-3-yl]-N,N-dimethylpropanamide | 262 mg | ClC=1C=C(C=CC1)C1=C(C(N(C2=NC(=CC=C12)C)CC)=O)CCC(=O)N(C)C | C22H24ClN3O2
